US07592373B2
5.2.c. (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)acrylamide
70 mL of water and 21 mL of trifluoroacetic acid are added to a suspension of 9.8 g (24.02 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-dimethoxymethylphenyl)acrylamide in 280 mL of chloroform and the reaction mixture is stirred for 8 hours at ambient temperature. It is diluted with chloroform and water, the organic phase is separated off and extracted with water. The organic phase is dried, filtered through silica gel, and the solvent is distilled off. Yield: 5.5 g; C22H16ClNO2 (M=361.83); calc.: molecular ion peak (M+H)+: 362/364; found: molecular ion peak (M+H)+: 362/364; Rf value: 0.6 (silica gel, cyclohexane/ethyl acetate (1:1)).

reactant | trifluoroacetic acid | 21 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-dimethoxymethylphenyl)acrylamide | 24.02 mmol, 9.8 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)C(OC)OC)=O | C24H22ClNO3
solvent | chloroform | 280 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | water | 70 mL | O | H2O
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)C=O)=O | C22H16ClNO2
